US07282583B2
Step 4. Production of Methyl 2-(ethylamino)-5-(2-hydroxyethyl)pyridine-3-carboxylate
7.85 g (30.18 mmol) of methyl 2-bromo-5-(2-hydroxyethyl)pyridine-3-carboxylate (free base) were dissolved in 20 ml MeOH and added to a 250 ml 3-neck-round bottom flask with a stirrer bar, a thermocouple, a addition funnel and a cold condenser (capable for −78° C.). The solution was treated with 433 mg (3.018 mmol, 0.1 equiv.) CuBr and heated to 55-60° C. The reaction mixture was treated dropwise with 74 ml (148 mmol, 4.9 equiv.) 2M EtNH2 in THF. The reaction was kept at 55-60° C. for two hour and monitored. If the chromatogram still shows starting material the reaction was treated with additional 20 ml (40 mmol, 1.32 equiv.) 2M EtNH2 in THF and kept another 2 h at 55-60° C.

reactant | methyl 2-bromo-5-(2-hydroxyethyl)pyridine-3-carboxylate | 30.18 mmol, 7.85 g | BrC1=NC=C(C=C1C(=O)OC)CCO | C9H10BrNO3
reactant | EtNH2 | 148 mmol, 2M, 74 ml, 4.9 equiv. | C(C)N | C2H7N
reactant | EtNH2 | 40 mmol, 2M, 20 ml, 1.32 equiv. | C(C)N | C2H7N
solvent | MeOH | 20 ml | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 2-(ethylamino)-5-(2-hydroxyethyl)pyridine-3-carboxylate | C(C)NC1=NC=C(C=C1C(=O)OC)CCO | C11H16N2O3
